US06177423B1
[1-(2-tert-butyloxy-2,3-dihydro-1,3-dioxo-1H-benzo[de]isoquinolin-6-yl)-pyrrolidin-3-yl]-carbamic acid, tert-butyl ester
A mixture of 6-bromo-2-tert-butyloxy-2,3-dihydro-1H-benzo[de]isoquinoline-1,3-dione (0.5 g, 1.4 mmol, from Example K2) and 3-Boc-aminopyrrolidine (0.8 g, 4.7 mmol) in DMA (4.0 mL) was heated at 120° C. overnight. The mixture was concentrated, and water was added to give a precipitate, which was filtered to yield 0.6 g of the title compound.

reactant | 6-bromo-2-tert-butyloxy-2,3-dihydro-1H-benzo[de]isoquinoline-1,3-dione | 1.4 mmol, 0.5 g | BrC=1C=CC=2C(N(C(C3=CC=CC1C23)=O)OC(C)(C)C)=O | C16H14BrNO3
reactant | 3-Boc-aminopyrrolidine | 4.7 mmol, 0.8 g | C(=O)(OC(C)(C)C)C1CN(CC1)N | C9H18N2O2
reactant | DMA | 4.0 mL | CC(=O)N(C)C | C4H9NO
product | [1-(2-tert-butyloxy-2,3-dihydro-1,3-dioxo-1H-benzo[de]isoquinolin-6-yl)-pyrrolidin-3-yl]-carbamic acid, tert-butyl ester | 0.6 g | C(C)(C)(C)ON1C(C2=CC=CC=3C2=C(C1=O)C=CC3N3CC(CC3)NC(OC(C)(C)C)=O)=O | C25H31N3O5
